US06211199B1
54.5 Synthesis of 1-(3,4,5-trimethoxybenzoyl)-3-(pyrid-4-yl)-3-(2-methanesulfonyloxyethyl)pyrrolidine
Combine 1-(3,4,5-trimethoxybenzoyl)-3-(pyrid-4-yl)-3-(2-hydroxyethyl)pyrrolidine (0.32 g, 0.83 mmol) and N,N-diisopropylethylamine (0.46 mL, 2.64 mmol) in dichloromethane (50 mL). Cool in an ice bath. Add dropwise methanesulfonyl chloride (0.096 mL, 1.24 mmol). After 1 hour, warm to ambient temperature. Again cool in an ice bath and add N,N-diisopropylethylamine (0.23 mL, 1.32 mmol) followed by methanesulfonyl chloride (0.096 ml, 1.24 mmol). After 1 hour, dilute the reaction mixture with dichloromethane and extract with a saturated aqueous solution of sodium bicarbonate. Dry the organic layer over MgSO4, filter, and evaporate in vacuo to give the title compound: Rf=0.24 (silica gel, 5% methanol/dichloromethane/0.1% concentrated aqueous ammonia).

reactant | 1-(3,4,5-trimethoxybenzoyl)-3-(pyrid-4-yl)-3-(2-hydroxyethyl)pyrrolidine | 0.83 mmol, 0.32 g | COC=1C=C(C(=O)N2CC(CC2)(CCO)C2=CC=NC=C2)C=C(C1OC)OC | C21H26N2O5
reactant | N,N-diisopropylethylamine | 2.64 mmol, 0.46 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | methanesulfonyl chloride | 1.24 mmol, 0.096 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | N,N-diisopropylethylamine | 1.32 mmol, 0.23 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | methanesulfonyl chloride | 1.24 mmol, 0.096 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 1-(3,4,5-trimethoxybenzoyl)-3-(pyrid-4-yl)-3-(2-methanesulfonyloxyethyl)pyrrolidine | COC=1C=C(C(=O)N2CC(CC2)(CCOS(=O)(=O)C)C2=CC=NC=C2)C=C(C1OC)OC | C22H28N2O7S
